US06380156B1
L-Threonine Ethyl Ester (L-ThrOEt).
A current of dry HCl was passed through a suspension of L-threonine (35.0 g, 0.29 mol) in absolute ethanol (350 ml), with shaking, until a clear solution formed. The solution then refluxed for 30 minutes, and was evaporated to dryness under reduced pressure, and the oily residue was taken up in absolute ethanol (175 mL) and, again, taken to dryness under reduced pressure. The oily residue was then treated with a saturated solution of ammonia in chloroform. The ammonium chloride was filtered off and the filtrate was taken to dryness at 0° C. under reduced pressure. A yellow solid was isolated (36.2 g. 85%); [α]29Na+0.82° (c 5.0, EtOH). Lit.12 [α]29D+0.95° (C 5.0 EtOH); m.p. 51-53° C. (Lit12 52-54° C.); 1H NMR (200 MHz, CDCl3 w/TMS) δ 4.82 (1H.m), 4.40 (1H,d), 4.05 (2H,q), 1.62 (3H,d), 1.21 (3H;t); FABMS 148.2 (M+H); HRFABMS Calcd for C6H14NO3 (M+H) 148-0974, found 148.0972.

reactant | HCl | Cl | ClH
reactant | L-threonine | 0.29 mol, 35.0 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | ethanol | 350 ml | C(C)O | C2H6O
reactant | EtOH | CCO | C2H6O
product | L-Threonine Ethyl Ester | C(C)OC([C@@H](N)[C@H](O)C)=O | C6H13NO3
